US06255494B1
Preparation of 2-(4-chlorophenoxymethyl)-4-benzyloxy-1-[3-[1-(t-butoxycarbonyl )piperidin-4-yl]propyl]-benzimidazole
A solution of 2-(4-chlorophenoxymethyl)-4-benzyloxy-benzimidazole (720 mg, 1.97 mmol, 1.0 eq) in dry N,N-dimethylformamide (8 ml, 0.25 M) was treated with sodium hydride (60% in mineral oil, 57 mg, 2.30 mmol, 1.2 eq). The resulting mixture was stirred at room temperature for thirty minutes and then 3-[1-(t-butoxycarbonyl)piperidin-4-yl]propyl bromide (7.24 mg, 2.36 mmol, 1.2 eq) was added to the reaction mixture. The resulting mixture was stirred at 70° C. for three hours. The reaction was quenched by the addition of water (1×30 ml). The aqueous fraction was extracted with diethyl ether (1×30 ml). The organic fractions were combined, washed with water (1×30 ml), then brine (1×30 ml), and then dried over sodium sulfate. The solvents were removed in vacuo. The desired title product was further purified by flash chromatography to provide a white foam in 38% yield.

reactant | 2-(4-chlorophenoxymethyl)-4-benzyloxy-benzimidazole | 1.97 mmol, 720 mg, 1.0 eq | ClC1=CC=C(OCC=2NC3=C(N2)C=CC=C3OCC3=CC=CC=C3)C=C1 | C21H17ClN2O2
reactant | sodium hydride | 2.30 mmol, 57 mg, 1.2 eq | [H-].[Na+]
reactant | 3-[1-(t-butoxycarbonyl)piperidin-4-yl]propyl bromide | 2.36 mmol, 7.24 mg, 1.2 eq | C(C)(C)(C)OC(=O)N1CCC(CC1)CCCBr | C13H24BrNO2
solvent | N,N-dimethylformamide | 0.25 M, 8 ml | CN(C=O)C | C3H7NO
product | 2-(4-chlorophenoxymethyl)-4-benzyloxy-1-[3-[1-(t-butoxycarbonyl )piperidin-4-yl]propyl]-benzimidazole | 38% yield | ClC1=CC=C(OCC2=NC3=C(N2CCCC2CCN(CC2)C(=O)OC(C)(C)C)C=CC=C3OCC3=CC=CC=C3)C=C1 | C34H40ClN3O4
